US07960412B2
(R)-6-{2-{Ethyl {4-{2-[methyl(tetrahydropyran-4-ylmethyl)amino]ethoxy}benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (15 mg) and 2-chloro-N-methyl-N-(tetrahydropyran-4-ylmethyl)acetamide (12 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (9.9 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 15 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C31H35NO5
reactant | 2-chloro-N-methyl-N-(tetrahydropyran-4-ylmethyl)acetamide | 12 mg | ClCC(=O)N(CC1CCOCC1)C | C9H16ClNO2
product | (R)-6-{2-{Ethyl {4-{2-[methyl(tetrahydropyran-4-ylmethyl)amino]ethoxy}benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 9.9 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OCCN(CC1CCOCC1)C | C35H46N2O4
